### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Span/Defs): replace Submodule.exists_add_eq_of_codisjoint with an iff

### PR DESCRIPTION
**Pull request by agjftucker**
Instead of introducing another theorem to go the other way, I have upgraded this one to an iff. The changed order of terms is preferable in my application (and probably others) because to prove the existential it is enough to provide the two witnesses first and leave everything else to simp.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 1]
```diff
@@ -349,6 +349,12 @@ theorem mem_sup : x ∈ p ⊔ p' ↔ ∃ y ∈ p, ∃ z ∈ p', y + z = x :=
 theorem mem_sup' : x ∈ p ⊔ p' ↔ ∃ (y : p) (z : p'), (y : M) + z = x :=
   mem_sup.trans <| by simp only [Subtype.exists, exists_prop]
 
+theorem codisjoint_iff_exists_add_eq :
+    Codisjoint p p' ↔ ∀ z, ∃ x y, x ∈ p ∧ y ∈ p' ∧ x + y = z := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Span/Defs.lean:353]: why not make it
```suggestion
    Codisjoint p p' ↔ ∀ z, ∃ x ∈ p, ∃ y ∈ p', x + y = z := by
```
to keep it the same as the one you're trying to deprecate

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 2]
```diff
@@ -349,6 +349,12 @@ theorem mem_sup : x ∈ p ⊔ p' ↔ ∃ y ∈ p, ∃ z ∈ p', y + z = x :=
...
+  rw [codisjoint_iff, eq_top_iff']
+  exact forall_congr' (fun z => mem_sup.trans <| by simp)
+
+@[deprecated codisjoint_iff_exists_add_eq (since := "2025-07-05")]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Span/Defs.lean]:
```suggestion
@[deprecated (since := "2025-07-05")] alias ⟨exists_add_eq_of_codisjoint, _⟩ := codisjoint_iff_exists_add_eq
```
and then you can remove the lemma below

Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: Thanks for a clever suggestion but I think it won't work here because of the order.

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 3]
```diff
@@ -349,6 +349,12 @@ theorem mem_sup : x ∈ p ⊔ p' ↔ ∃ y ∈ p, ∃ z ∈ p', y + z = x :=
...
 lemma exists_add_eq_of_codisjoint (h : Codisjoint p p') (x : M) :
     ∃ y ∈ p, ∃ z ∈ p', y + z = x := by
   suffices x ∈ p ⊔ p' by exact Submodule.mem_sup.mp this
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Span/Defs.lean]: You should actually delete the old lemma since there is deprecation:
```suggestion
```

**Review by ocfnash — APPROVED** [review]
Thanks! Please apply the suggestion and then feel free to merge :)

bors d+

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 3 above)
Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: Sorry, judging by the comments this PR is not as straightforward as I thought it was. I had understood that one was to leave in place a working version of the old theorem but mark it as deprecated so that it could be deleted at some point in the future. What am I missing?

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: You're claiming that the change of order is better, so removing the old lemma makes sense.

Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: I would like to understand the logic here. Using an alias as you have suggested will do more than provide a helpful deprecation warning in downstream code; it will immediately break said code. Removing the lemma outright will do the same.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: You've already changed all the occurrences of the lemma in the library, so it won't break anything here. And if someone remembers the lemma `exists_add_eq_of_codisjoint` and writes that, then they'll see the deprecation warning. Maybe personal libraries using `Mathlib` and that lemma would have a breakdown in their code when they merge, but that happens a lot anyway.

Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: You seem to be saying that the only purpose of the deprecation policy is to nudge people in the right direction should they remember and attempt to apply the old name at some point in the future. Given the complexity of these names, that seems unlikely anyway!

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: The deprecations are primarily to support projects which depend on Mathlib. Amongst the policies available to us in cases like this are:

1. Add a deprecation warning, and only delete the deprecated content in six months
2. Add a deprecation warning, and delete the deprecated content immediately

With Mathlib we have opted for policy 2. This does mean that people encounter breakage which might have been avoided if we have opted for policy 1 (e.g., if the downstream project reacted to the warning by removing their use of the deprecated content before it was removed) but we have decided this is acceptable.

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: No need to apologise!

Also, I have replied above: https://github.com/leanprover-community/mathlib4/pull/26796#discussion_r2192397769

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 2 above)
Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: Thanks both for your patience. I am removing the old declaration as you suggest. Although it is not a true replacement I can use @themathqueen's alias notation to make the connection between old and new. The [webpage](https://leanprover-community.github.io/contribute/style.html#deprecation) is not so helpful on this; in fact one might say it is downright misleading.

File: Mathlib/LinearAlgebra/Span/Defs.lean [hunk 4]
```diff
@@ -349,9 +349,12 @@ theorem mem_sup : x ∈ p ⊔ p' ↔ ∃ y ∈ p, ∃ z ∈ p', y + z = x :=
...
-lemma exists_add_eq_of_codisjoint (h : Codisjoint p p') (x : M) :
-    ∃ y ∈ p, ∃ z ∈ p', y + z = x := by
-  suffices x ∈ p ⊔ p' by exact Submodule.mem_sup.mp this
+theorem codisjoint_iff_exists_add_eq :
+    Codisjoint p p' ↔ ∀ z, ∃ x y, x ∈ p ∧ y ∈ p' ∧ x + y = z := by
+  rw [codisjoint_iff, eq_top_iff']
+  exact forall_congr' (fun z => mem_sup.trans <| by simp)
+
+@[deprecated (since := "2025-07-05")] alias ⟨exists_add_eq_of_codisjoint, _⟩ := codisjoint_iff_exists_add_eq
   simpa only [h.eq_top] using Submodule.mem_top
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Span/Defs.lean]: think you forgot to remove this
```suggestion
```

Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: I just accepted both commit suggestions although I knew it wouldn't immediately compile

File: Mathlib/LinearAlgebra/Span/Defs.lean (hunk 2 above)
Comment (agjftucker) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: I dread having to upgrade my own project from 2023. I had assumed I would be able to do so incrementally, wending my way through a lot of deprecation warnings, but it seems it's going to be red vertical lines all the way.

Comment (themathqueen) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: Yeah, for sure. If you don't update it frequently, it'll get harder and harder.

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Span/Defs.lean]: @agjftucker I just consulted the team about that page and I see that I have slightly overstated things above.

In the case of this PR, we have done the right thing (because your new lemma includes the old one) but there are times when we follow what I call policy 1 above.

**Comment by ocfnash** [comment]
bors merge
